US07163932B2
Step 3 2-Bromo-4-(hydroxymethyl)benzaldehyde
To a stirring cold (−78° C.) solution of ethyl 3-bromo-4-cyanobenzoate (0.41 mol, 104 g) in THF (2.3 L was added dropwise a solution of diisobutylaluminum hydride (2.0 mol, 1.36 L; 1.5 M in toluene) over a period of 1.5 h. After addition was completed, the mixture was warmed to rt over a period of 3 h. The mixture was then cooled to 0–5° C. and 40 ml of acetone was added slowly. The mixture was then transferred via a cannula to a cold (0° C.) stirring aqueous solution of HCl (2.2 L 3 N) over a period of 1.5 h, maintaining the temperature of the aqueous solution below 30° C. After the transfer was completed, the mixture was stirred for another 0.25 h. The organic solution was separated and the aqueous was extracted twice with EtOAc (3 L). The combined organic extracts were washed with brine, dried with MgSO4 (anhyd.) and concentrated to give 74 g (83%) of the title compound as a light yellow solid.

reactant | ethyl 3-bromo-4-cyanobenzoate | 0.41 mol, 104 g | BrC=1C=C(C(=O)OCC)C=CC1C#N | C10H8BrNO2
reactant | diisobutylaluminum hydride | 2.0 mol, 1.5 M, 1.36 L | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetone | 40 ml | CC(=O)C | C3H6O
reactant | HCl | 3 N, 2.2 L | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-Bromo-4-(hydroxymethyl)benzaldehyde | 74 g, 83% | BrC1=C(C=O)C=CC(=C1)CO | C8H7BrO2
